US07932274B2
Synthesis of (1R,2R)-2-methyl-cyclopropanecarboxylic acid [3-(2-methyl-2H-indazol-5-yl)-4-pyridin-2-yl-isothiazol-5-yl]-amide hydrochloride
The following compounds are prepared essentially as described in Example 5 using (6-bromo-pyridin-2-yl)-dimethyl-amine and either (1R,2R)-2-methyl-cyclopropanecarboxylic acid [4-bromo-3-(2-ethyl-2H-indazol-5-yl)-isothiazol-5-yl]-amide or (1R,2R)-2-methyl-cyclopropanecarboxylic acid [4-bromo-3-(2-methyl-2H-indazol-5-yl)-isothiazol-5-yl]-amide. Example 7; is prepared as the free base by omitting treatment with hydrogen chloride.

reactant | (6-bromo-pyridin-2-yl)-dimethyl-amine | BrC1=CC=CC(=N1)N(C)C | C7H9BrN2
reactant | (1R,2R)-2-methyl-cyclopropanecarboxylic acid [4-bromo-3-(2-ethyl-2H-indazol-5-yl)-isothiazol-5-yl]-amide | BrC=1C(=NSC1NC(=O)[C@H]1[C@@H](C1)C)C1=CC2=CN(N=C2C=C1)CC | C17H17BrN4OS
reactant | (1R,2R)-2-methyl-cyclopropanecarboxylic acid [4-bromo-3-(2-methyl-2H-indazol-5-yl)-isothiazol-5-yl]-amide | BrC=1C(=NSC1NC(=O)[C@H]1[C@@H](C1)C)C1=CC2=CN(N=C2C=C1)C | C16H15BrN4OS
reactant | hydrogen chloride | Cl | ClH
product | (1R,2R)-2-methyl-cyclopropanecarboxylic acid [3-(2-methyl-2H-indazol-5-yl)-4-pyridin-2-yl-isothiazol-5-yl]-amide hydrochloride | Cl.CN1N=C2C=CC(=CC2=C1)C1=NSC(=C1C1=NC=CC=C1)NC(=O)[C@H]1[C@@H](C1)C | InChI=1S/C21H19N5OS.ClH/c1-12-9-15(12)20(27)23-21-18(17-5-3-4-8-22-17)19(25-28-21)13-6-7-16-14(10-13)11-26(2)24-16;/h3-8,10-12,15H,9H2,1-2H3,(H,23,27);1H/t12-,15-;/m1./s1
